US07238724B2
(5R)-1-(chloroacetyl)-5-ethynyl-L-proline
To a stirred solution of methyl (5R)-1-(chloroacetyl)-5-((trimethylsilyl)ethynyl)-L-prolinate (3.69 g, 12.2 mmol) in MeOH (24 mL) and H2O (24 mL) at room temperature was added LiOH.H2O (0.8 g, 18 mmol). The reaction mixture was stirred at ambient temperature overnight and concentrated under reduced pressure. The residue was taken up in water and extracted with diethyl ether (2×). The aqueous layer was acidified to pH˜3 by adding 4% KHSO4 dropwise. The solution was extracted with ethyl acetate (3×). Combined ethyl acetate layers were washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure to provide the titled compound. MS (CI) m/z 216 (M+1)+.

reactant | methyl (5R)-1-(chloroacetyl)-5-((trimethylsilyl)ethynyl)-L-prolinate | 12.2 mmol, 3.69 g | ClCC(=O)N1[C@H](C(=O)OC)CC[C@@H]1C#C[Si](C)(C)C | C13H20ClNO3Si
reactant | LiOH.H2O | 18 mmol, 0.8 g | O[Li].O
solvent | MeOH | 24 mL | CO | CH4O
solvent | H2O | 24 mL | O | H2O
product | (5R)-1-(chloroacetyl)-5-ethynyl-L-proline | ClCC(=O)N1[C@H](C(=O)O)CC[C@@H]1C#C | C9H10ClNO3
